US07745641B2
In a similar manner to Step 6 of Example 139, 4-chloro-5-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (97.1 mg, 0.206 mmol) was treated with 10% hydrogen chloride-methanol solution (3 mL), followed by purification by slurry using diisopropylether to obtain 4-chloro-5-hydroxy-7-iodoisoindolinone (36.9 mg, yield 58%).

reactant | 4-chloro-5-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 0.206 mmol, 97.1 mg | ClC1=C2CN(C(C2=C(C=C1O)I)=O)C(C)(C1=CC=CC=C1)C | C17H15ClINO2
reactant | hydrogen chloride methanol | 3 mL | Cl.CO
product | 4-chloro-5-hydroxy-7-iodoisoindolinone | 36.9 mg, yield 58% | ClC1=C2CNC(C2=C(C=C1O)I)=O | C8H5ClINO2
